US07902369B2
1) Manufacture of 5-bromo-2-tert-butoxycarbonyl-1-oxo-isoindoline
Under nitrogen atmosphere, 1.5 mg of 5-bromo-1-oxo-isoindoline was dissolved in 20 ml of tetrahydrofuran, cooled down to 0° C. Then, 85 mg of N,N-dimethylaminopyridine and 3.0 ml of tert-butylcarbonate were added, and the mixture was stirred at room temperature for 30 min. Methanol was added to the reaction solution, and the solvents were distilled outunder reduced pressure. Water was added to the residues, extracted with ethyl acetate. Ethyl acetate layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. After distilling out the solvents under reduced pressure, the residues were separated and purified by silicagel column chromatography (ethyl acetate/hexane=1/2), to obtain 300 mg of the above compound as a white solid.

reactant | 5-bromo-1-oxo-isoindoline | 1.5 mg | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | tert-butylcarbonate | 3.0 ml | C(C)(C)(C)OC([O-])=O
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-tert-butoxycarbonyl-1-oxo-isoindoline | 300 mg | BrC=1C=C2CN(C(C2=CC1)=O)C(=O)OC(C)(C)C | C13H14BrNO3
